US08216962B2
Next, to a 100-mL round-bottom flask, 8.00 g of the polyester polyol, 2.15 g of methacryloyloxyethyl isocyanate, and 10.0 g of ethyl acetate were charged, and a reaction was conducted under stirring for six hours. The reaction mixture was filtered through a 0.2-μm membrane filter to remove the catalyst. An ethyl acetate solution of a target urethane acrylate with an NCO conversion rate of 95% was obtained. The residual ratio of the catalyst in the ethyl acetate solution was below the detection limit (5 ppm).

reactant | methacryloyloxyethyl isocyanate | 2.15 g | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
reactant | ethyl acetate | 10.0 g | C(C)(=O)OCC | C4H8O2
product | urethane acrylate | C(C=C)(=O)O.NC(=O)OCC | InChI=1S/C3H7NO2.C3H4O2/c1-2-6-3(4)5;1-2-3(4)5/h2H2,1H3,(H2,4,5);2H,1H2,(H,4,5)
